Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hepatic abscess
 
Major Surgical or Invasive Procedure:
___: US-guided placement of ___ pigtail catheter into 
the hepatic abscess.   

___: Midline IV catheter placed

 
History of Present Illness:
___ no significant PMHx p/w 2-weeks of mid-epigastric and
RUQ pain, LLQ pain, intermittent fevers and night sweats, and
diarrhea ___ per day. Patient has taken Tylenol for pain which
helps. Patient denies weight loss, N/V, dizziness, dysuria.
Denies melena or steatorrhea. Patient immigrated to ___ from
___ ___ years ago and has visited several times since,
although last travel out of the ___ was ___ years ago. Patient also
denies recent camping/hiking, drinking from streams. RUQ
demonstrating hepatic abscess.
 
Past Medical History:
Past Medical History:
Chronic diarrhea
Hemorrhoids
Gallbladder polyp

Past Surgical History:
None
 
Social History:
___
Family History:
father died of hepatocellular carcinoma (likely HepB
cause) at age ___
 
Physical Exam:
Admission Physical Exam:
Vitals - T 99.5 / HR 64 / BP 118/71 / RR 18 / O2sat 97% RA 
General - comfortable, NAD
HEENT - moist mucous membranes, PERRLA, EOMI
Cardiac - RRR, no M/R/G
Chest - CTAB
Abdomen - soft, moderately TTP mid-epigastric and LLQ regions,
nondistended, no rebound or guarding
Extremities - warm and well-perfused
Neuro - A&OX3, sensorimotor function intact

Discharge Physical Exam:
VS: 98.2, 106/72, 77, 18, 97 RA 
Gen: A&O x3, NAD
Pulm: LS ctab
CV: HRR
Abd: soft, NT/ND. RUQ drain with scant serosang drainage
Ext: Left midline IV catheter site CDI. No ___ edema
 
Pertinent Results:
___ 07:01AM BLOOD WBC-8.0 RBC-4.52* Hgb-13.4* Hct-41.8 
MCV-93 MCH-29.6 MCHC-32.1 RDW-12.0 RDWSD-40.8 Plt ___
___ 06:40AM BLOOD WBC-7.6 RBC-4.37* Hgb-13.3* Hct-40.2 
MCV-92 MCH-30.4 MCHC-33.1 RDW-11.9 RDWSD-40.6 Plt ___
___ 06:36AM BLOOD WBC-5.8 RBC-4.37* Hgb-13.4* Hct-40.1 
MCV-92 MCH-30.7 MCHC-33.4 RDW-12.0 RDWSD-40.5 Plt ___
___ 06:36AM BLOOD WBC-7.6 RBC-4.06* Hgb-12.2* Hct-37.4* 
MCV-92 MCH-30.0 MCHC-32.6 RDW-12.0 RDWSD-40.7 Plt ___
___ 12:26PM BLOOD WBC-8.6 RBC-4.14* Hgb-12.3*# Hct-38.5* 
MCV-93 MCH-29.7 MCHC-31.9* RDW-12.0 RDWSD-41.4 Plt ___
___ 07:01AM BLOOD Glucose-104* UreaN-10 Creat-0.8 Na-139 
K-5.1 Cl-101 HCO3-24 AnGap-14
___ 06:40AM BLOOD Glucose-117* UreaN-9 Creat-0.9 Na-137 
K-4.7 Cl-99 HCO3-26 AnGap-12
___ 06:36AM BLOOD Glucose-108* UreaN-12 Creat-0.9 Na-141 
K-4.7 Cl-100 HCO3-25 AnGap-16
___ 06:36AM BLOOD Glucose-104* UreaN-8 Creat-0.9 Na-139 
K-4.6 Cl-99 HCO3-26 AnGap-14
___ 12:26PM BLOOD Glucose-102* UreaN-11 Creat-0.8 Na-136 
K-4.9 Cl-96 HCO3-26 AnGap-14
___ 07:01AM BLOOD ALT-310* AST-407* AlkPhos-144* 
TotBili-0.2
___ 06:40AM BLOOD ALT-53* AST-32 AlkPhos-106 TotBili-0.2
___ 06:36AM BLOOD ALT-60* AST-27 AlkPhos-111 TotBili-0.2
___ 06:36AM BLOOD ALT-72* AST-39 AlkPhos-117 TotBili-0.3
___ 12:26PM BLOOD ALT-87* AST-56* AlkPhos-130 TotBili-0.4
___ 07:01AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.4
___ 06:40AM BLOOD Calcium-9.1 Phos-3.1 Mg-2.4
___ 06:36AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.4
___ 06:36AM BLOOD Calcium-8.9 Phos-3.5 Mg-2.2

Imaging:
RUQ US: IMPRESSION: 
 1. New left lobe hepatic fluid collection with surrounding 
edema
of the hepatic parenchyma concerning for abscess. 
 2. Nonvisualization of the previously described polyps. 

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 2:32 ___ 
IMPRESSION: 
1. 5.8 x 6.3 cm left hepatic lobe (segment ___ multiloculated
abscess with 
surrounding edema. 
2. Apparent thrombosis of the left portal vein with geographic
perfusion 
abnormality with relative ___ of the left hepatic
lobe. 
3. Probable right undescended testis. 

___:
Successful US-guided placement of ___ pigtail catheter into 
the hepatic abscess.  Samples was sent for microbiology 
evaluation. 

___:
Scrotal US- Normal scrotal ultrasound.  The right and left 
testes are visualized within the scrotum. 

___: 
CXR- Within limits of plain radiography, no pulmonary nodules 
are seen

___:
Venous duplex- 1. Patent left and right portal veins. 
2. Large hepatic abscess as previously known. 

___:
1. Appropriately positioned percutaneous abdominal drain within 
the hepatic segment 4A lesion without kink or discontinuity in 
the catheter. 
2. Interval decrease in size of the hepatic abscess now 
measuring up to 4.6 cm.  In particular, the liquified central 
areas of hypodensity within this lesion have nearly resolved. 3. 
Patent portal vein.

 

___ 9:19 am ABSCESS      Source: liver. 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

 
Brief Hospital Course:
___ no significant PMHx p/w 2-weeks RUQ and LLQ pain and 
intermittent fevers/diarrhea, imaging demonstrating left lobe 
liver abscess (5.8 cm x 6.3 cm) and possible distal thrombus in 
left portal vein. He was hemodynamically stable and had no 
leukocytosis. The patient was admitted to the Acute Care Surgery 
service. The patient was made nothing by mouth and started on 
antibiotics. Hepatology was consulted. The patient went down to 
Interventional Radiology for drain placement, which went well. 
The cultures from the abscess grew pan-sensitive klebsiella 
pneumonia. Infectious disease was consulted for antibiotic 
management. They recommended 4 weeks of IV ceftriaxone and would 
follow the patient as an outpatient. A power midline IV catheter 
was placed for out patient Iv antibiotics. Hepatology did not 
recommend any further work-up of the etiology, as spontaneous 
klebsiella pneumonia liver abscesses are well described. As far 
as the possible portal venous thrombosis, a venous study was 
obtained which showed a patent portal vein. Also, a repeat CT 
scan on the ___ no longer showed anything suspicious of a PVT. 
Therefore the patient was not started on anticoagulation. 

Pain was well controlled. Diet was progressively advanced as 
tolerated to a regular diet with good tolerability. The patient 
voided without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home with ___ services 
for drain care and with IV Home Infusions set up for IV 
antibiotics. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Ibuprofen PRN
Omeprazole
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  CefTRIAXone 2 gm IV Q24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g IV once a 
day Disp #*28 Intravenous Bag Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*9 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate  
5.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hepatic abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for treatment of a liver abscess. You 
were started on antibiotics and taken to ___ to have a drain 
placed in the abscess. The Infectious Disease and Hepatology 
services were consulted to assist in managing your treatment. 
Infectious Disease is recommending 4 weeks of IV antibiotics. 
You have had a special IV placed that is suitable for longterm 
antibiotics. 

You are doing well and medically cleared for discharge. Please 
note the following:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain. Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently. Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation

 
Followup Instructions:
___